US06180665B2
(S,S,S)-N-(1-[2-Carboxy-3-(N2-mesyllysylamino)propyl]-1-cyclopentylcarbonyl)tyrosine, α-form
A solution of (S,S,S)-N-(1-[2-carboxy-3-(N2-mesyllysylamino)propyl]-1-cyclopentylcarbonyl)tyrosine hydrate (the δ-form, see Preparation 2) (3.0 g) in a 1:5 water/methanol mixture (18 ml) or a 1:10 water/acetone mixture (33 ml) was stirred for 3 days at room temperature. The resulting solid was collected by filtration and dried to give the title compound as a white solid, m.p. 246-8° C. (from the aqueous methanol method), m.p. 242-3° C. (from the aqueous acetone method).

reactant | (S,S,S)-N-(1-[2-carboxy-3-(N2-mesyllysylamino)propyl]-1-cyclopentylcarbonyl)tyrosine hydrate | O.C(=O)(O)[C@@H](CC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O)CNC([C@@H](NS(=O)(=O)C)CCCCN)=O
reactant | water methanol | 18 ml | O.CO
solvent | water acetone | 33 ml | O.CC(=O)C
product | (S,S,S)-N-(1-[2-Carboxy-3-(N2-mesyllysylamino)propyl]-1-cyclopentylcarbonyl)tyrosine | C(=O)(O)[C@@H](CC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O)CNC([C@@H](NS(=O)(=O)C)CCCCN)=O | C26H40N4O9S
